US06787558B2
b) 4-[2-Methyl-4-(4-methyl-piperazin-1-yl)-quinolin-7-ylmethoxy]-benzonitrile
A solution of 4-(4-chloro-2-methyl-quinolin-7-ylmethoxy)-benzonitrile (100 mg, 0.32 mmol) and 1-methylpiperazine (81 mg, 0.81 mmol) in 1-methylpyrrolidin-2-one (1.5 mL) was stirred at 100° C. for 24 h. After cooling the reaciton mixture was partitioned between sat. aq. sodium hydrogencarbonate solution and dichloromethane, the organic layer was separated, washed with brine, dried (MgSO4), and evaporated. Chromatography (SiO2, dichloromethane/methanol 19:1) yielded the title compound (80 mg, 66%). Light yellow oil, ISP-MS: m/e=373.5 ([M+H]+).

reactant | 4-(4-chloro-2-methyl-quinolin-7-ylmethoxy)-benzonitrile | 0.32 mmol, 100 mg | ClC1=CC(=NC2=CC(=CC=C12)COC1=CC=C(C#N)C=C1)C | C18H13ClN2O
reactant | 1-methylpiperazine | 0.81 mmol, 81 mg | CN1CCNCC1 | C5H12N2
solvent | 1-methylpyrrolidin-2-one | 1.5 mL | CN1C(CCC1)=O | C5H9NO
product | 4-[2-Methyl-4-(4-methyl-piperazin-1-yl)-quinolin-7-ylmethoxy]-benzonitrile | 80 mg, 66% | CC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C)COC1=CC=C(C#N)C=C1 | C23H24N4O
